US04310544
A solution of 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylacetic acid (8.0 g.) in ethanol (200 ml.) containing concentrated sulphuric acid (1 ml.) was heated under reflux for 90 minutes, then cooled to room temperature, and carefully neutralised by addition of an excess of saturated aqueous bicarbonate solution. The mixture obtained was evaporated and the residue extracted thoroughly with ethyl acetate. The combined extracts were washed with water, dried (MgSO4) and evaporated to give ethyl 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylacetate (6.65 g.), m.p. 50°-51° C.

reactant | 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylacetic acid | 8.0 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)C2=CC=CC=C2)C=C1 | C21H17ClO3
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | bicarbonate | C([O-])(O)=O
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylacetate | 6.65 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)OCC)C2=CC=CC=C2)C=C1 | C23H21ClO3
